US08304443B2
Tert-butyl 3-(difluoromethoxy)-6-hydroxyindazole-1-carboxylate
Tert-butyl 6-(benzyloxy)-3-(difluoromethoxy)-indazole-1-carboxylate (262.5 mg) which can be prepared according to the method described in Reference example 33, etc. and 5% palladium on carbon-STD-type-50% wet with water (109.9 mg; manufactured by N. E. Chemcat Corp.) were suspended in dehydrated THF (3.4 mL; manufactured by Kanto Chemical Co., Inc.). After replacing the reaction system with hydrogen, it was stirred overnight at room temperature. After replacing the reaction solution with nitrogen, the mixture was filtered and the filtrate was concentrated under reduced pressure to obtain the title compound (197.2 mg).

reactant | Tert-butyl 6-(benzyloxy)-3-(difluoromethoxy)-indazole-1-carboxylate | 262.5 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)OC(F)F | C20H20F2N2O4
reactant | water | 109.9 mg | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-(difluoromethoxy)-6-hydroxyindazole-1-carboxylate | 197.2 mg | FC(OC1=NN(C2=CC(=CC=C12)O)C(=O)OC(C)(C)C)F | C13H14F2N2O4
